* C:\Users\Admin\Documents\GitHub\RideSyncEmbedded\curr_meas_dc_v2(gain-50).asc
* Generated by LTspice 24.1.10 for Windows.
V2 VDD0 0 3
C3 0 VDD0 10µ V=6.3 Irms=5.2 Rser=0.0063 Lser=4.18n
V3 VSS 0 -3
C4 0 VSS 10µ V=6.3 Irms=5.2 Rser=0.0063 Lser=4.18n
X§U4 CURR_IN_AC N003 VDD0 VSS N006 MAX40018 ;§pnba In+)In-)V+)V-)OUT
R8 0 N003 700k
R9 N003 N006 180k
X§U5 N009 N004 VDD0 VSS CURR_OUT2_AC MAX40018 ;§pnba In+)In-)V+)V-)OUT
R12 N004 CURR_OUT2_AC 700k
R14 N006 N004 180k
RG1 N003 N004 31k
V5 N009 0 0
V6 CURR_IN_AC 0 AC 10mV
X§U10 N007 N001 VDD0 VSS N005 MAX40018 ;§pnba In+)In-)V+)V-)OUT
R23 0 N001 700k
R24 N001 N005 180k
X§U11 N008 N002 VDD0 VSS CURR_OUT3 MAX40018 ;§pnba In+)In-)V+)V-)OUT
R25 N002 CURR_OUT3 700k
R26 N005 N002 180k
RG3 N001 N002 31k
V10 N008 0 0
R27 N007 0 1
I2 N007 0 PWL(0 0 20 10m)
* .tran 20s
* Vout = vref - vin (1 + R2 / R1 + (R2 + R4) / RG)\nif R4/R3 = R2 / R1, gain of vref stays 1
* My measurement range of interest is +/- 10 mA
* Offset corr simulation
.ac dec 100hz 1hz 50khz
* Offset corr simulation
.lib MAX40018.lib
.backanno
.end
